US05412094
Loracarbef:
Loracarbef ethanolate (5.0 g, 86.2%, potency as loracarbef), from above was suspended in 70 ml of H2O, and the slurry was heated to 50° C. The slurry became very thick which indicated conversion to the monohydrate. The slurry was stirred at 50° C. for 1 hour, filtered, washed with H2O and dried under vacuum at 40° C. The actual yield of loracarbef monohydrate was 3.06 g, 102.8% potency as loracarbef monohydrate, the theoretical yield was 4.53 g, and the percent yield was 69.3%.

reactant | Loracarbef ethanolate | 5.0 g | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@H]3CCC(=C(N3C2=O)C(=O)O)Cl)N.C(C)[O-]
solvent | H2O | 70 ml | O | H2O
product | Loracarbef | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@H]3CCC(=C(N3C2=O)C(=O)O)Cl)N | C16H16ClN3O4
